US06613743B2
A solution of (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-{(cyclohexyloxy)[(3-nitrophenyl)sulfonyl]amino}-2-hydroxypropylcarbamate (403 mg, 0.651 mmol) in absolute ethanol (12 mL) was combined with Palladium on carbon (10 wt %, 80 mg) and reduced under a Hydrogen atmosphere for 16 hours. The reaction mixture was filtered and evaporated in vacuo to provide (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[[(3-aminophenyl)sulfonyl](cyclohexyloxy)amino]-1-benzyl-2-hydroxypropylcarbamate (356 mg, 93%) as a foam. A sample of the product (30 mg) was purified on a preparative TLC plate (20×20 cm, 500 uM) eluting with 95:5 dichloromethane:methanol. The product band was removed, eluted with 3:1 methylene chloride : methanol, filtered, and evaporated in vacuo. The residue was triturated with water, filtered and dried under high vacuum to provide (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[[(3-aminophenyl)sulfonyl](cyclohexyloxy)amino]-1-benzyl-2-hydroxypropylcarbamate (18 mg) as a solid. H1-NMR (chloroform-D3): 1.26 (m, 6H), 1.64 (m, 5H), 2.07 (m, 2H), 2.93 (m, 4H), 3.14 (b, 1H), 3.69 (m, 2H), 3.87 (m, 4H), 3.94 (b, 2H), 4.19 (m, 1H), 4.83 (b, 1H), 5.03 (m, 1H), 5.64 (d, 1H), 6.89 (d, 1H), 7.06 (s, 1H), 7.21 (m, 7H). MS(ESI) 612 (M+Na)

reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-{(cyclohexyloxy)[(3-nitrophenyl)sulfonyl]amino}-2-hydroxypropylcarbamate | 0.651 mmol, 403 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])OC1CCCCC1)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C29H37N3O10S
solvent | ethanol | 12 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 80 mg | [Pd] | Pd
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[[(3-aminophenyl)sulfonyl](cyclohexyloxy)amino]-1-benzyl-2-hydroxypropylcarbamate | 356 mg, 93% | NC=1C=C(C=CC1)S(=O)(=O)N(C[C@H]([C@H](CC1=CC=CC=C1)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O)O)OC2CCCCC2 | C29H39N3O8S
